datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[C:14]([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[C:14]([H:15])([H:16])[H:17])[H:6],31.7984
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[O:10]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][O:10],15.64816
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4])[H:8])([H:5])([H:6])[H:7].[C:12]([C:13]([C:14](=[O:15])[H:21])([H:19])[H:20])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4][H:21])[H:8])([H:5])([H:6])[H:7].[C:12]([C:13]([C:14]=[O:15])([H:19])[H:20])([H:16])([H:17])[H:18],39.748
[C:0]([C:1]([C:2]([C:3](=[S:4])[H:11])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6]>>[C:0]1([H:5])([H:6])[C:1]([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]([H:11])[S:4]1,1.12968
[O:0][O:1].[c:2]1[c:3]([H:8])[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[c:7]1[H:12]>>[O:0]([O:1])[c:2]1[c:3]([H:8])[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[c:7]1[H:12],-2.64035504
[C:0]([C:1]([C:2]([O:3][O:4][H:13])([H:11])[H:12])([O:5][O:6])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([O:3][O:4][H:13])([H:11])[H:12])([O:5][O:6][H:7])[H:10])([H:8])[H:9],140.164
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14](#[C:15][C:16]([H:18])[H:19])[H:17]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([C:5]([H:11])([H:12])[H:13])[C:16]([C:15]#[C:14][H:17])([H:18])[H:19])[H:7])[H:6],35.564
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[c:17]1[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]([H:26])[c:22]1[H:27]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[c:17]1[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]([H:26])[c:22]1[H:27])[H:7],4.184
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12](=[C:13][C:14]([H:17])([H:18])[H:19])([H:15])[H:16]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])([C:3]([H:9])([H:10])[H:11])[C:13](=[C:12]([H:15])[H:16])[C:14]([H:17])([H:18])[H:19])([H:4])[H:5],16.736
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[C:7](=[C:8]([H:20])[H:21])[H:19])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([C:7](=[C:8]([H:20])[H:21])[H:19])[C:6]1([H:17])[H:18])[H:11])([H:9])[H:10],82.8014
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])[H:10])[H:9])([H:7])[H:8].[C:17]([C:18](=[C:19]([H:23])[H:24])[H:22])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[C:6]([H:15])[H:16])[H:14])[C:17]([C:18](=[C:19]([H:23])[H:24])[H:22])([H:20])[H:21])[H:10])[H:9])([H:7])[H:8],47.321
[H:4][H:5].[S:0]=[C:1][S:2][H:3]>>[H:4].[S:0]=[C:1]([S:2][H:3])[H:5],70.7096
[C:0](#[C:1][S:2][H:4])[H:3].[C:5](#[C:6][C:7]([C:8]([H:11])([H:12])[H:13])[C:9]([H:14])([H:15])[H:16])[H:10]>>[C:0](#[C:1][S:2])[H:3].[H:4][C:7]([C:6]#[C:5][H:10])([C:8]([H:11])([H:12])[H:13])[C:9]([H:14])([H:15])[H:16],-5.0208
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9](#[C:10][C:11]([C:12]([H:15])([H:16])[H:17])[H:14])[H:13]>>[C:0](#[C:1][C:2]=[C:3]([C:4]([H:6])([H:7])[H:8])[C:11]([C:10]#[C:9][H:13])([C:12]([H:15])([H:16])[H:17])[H:14])[H:5],36.2753
[C:0]1([H:5])=[C:1]([H:6])[C:2]([H:7])([H:8])[C:3]([H:9])=[C:4]1[H:10].[C:11](=[C:12][C:13](=[C:14]([H:18])[H:19])[H:17])([H:15])[H:16]>>[C:0]1([H:5])=[C:1]([H:6])[C:2]([H:8])[C:3]([H:9])=[C:4]1[H:10].[H:7][C:12](=[C:11]([H:15])[H:16])[C:13](=[C:14]([H:18])[H:19])[H:17],0.0
[N:0]([N:1]([H:4])[H:5])([H:2])[H:3].[N:6]=[O:7]>>[H:2][N:6]=[O:7].[N:0]([N:1]([H:4])[H:5])[H:3],127.561792
[C:0]([C:1]([S:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[S:12][H:19])([H:13])([H:14])[H:15]>>[C:0]([C:1]([S:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][C:10]([C:9]([H:13])([H:14])[H:15])([C:11]([H:16])([H:17])[H:18])[S:12][H:19],19.6648
[C:0]([C:1]([C:2]1([H:15])[C:3]([H:16])([H:17])[C:4]([H:18])([H:19])[C:5]([O:6][O:7])([H:20])[C:8]([H:21])([H:22])[C:9]1([H:23])[H:24])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:0]([C:1]([C:2]1([H:15])[C:3]([H:16])([H:17])[C:4]([H:19])[C:5]([O:6][O:7][H:18])([H:20])[C:8]([H:21])([H:22])[C:9]1([H:23])[H:24])([H:13])[H:14])([H:10])([H:11])[H:12],86.052328
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7](=[C:8][C:9]([H:12])([H:13])[H:14])([H:10])[H:11]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][C:8](=[C:7]([H:10])[H:11])[C:9]([H:12])([H:13])[H:14],-17.1544
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[S:12][H:19])([H:13])([H:14])[H:15]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:10]([C:9]([H:13])([H:14])[H:15])([C:11]([H:16])([H:17])[H:18])[S:12][H:19],72.8434
